US08614327B2
A flask charged with 2-isopropoxy-5-nitro-phenol (100 mg, 0.47 mmol) and palladium on carbon (50 mg, 0.47 mmol) was flushed with N2 followed by evacuating under vacuum. EtOAc (2 mL) and methanol (2 mL) were added under an inert atmosphere followed by evacuating under vacuum. The reaction mixture was then stirred overnight under an atmosphere of hydrogen. The palladium catalyst was removed by filtration and solvent was removed under reduced pressure to give 5-amino-2-isopropoxyphenol (65 mg, 76%). 1H NMR (400.0 MHz, CDCl3) δ 6.73 (d, J=8.3 Hz, 1H), 6.31 (d, J=2.5 Hz, 1H), 6.22 (dd, J=2.5, 8.3 Hz, 1H), 5.22 (s, 1H), 4.50 (qn, J=6.1 Hz, 1H), 3.37 (s, 2H) and 1.37-1.26 (m, 6H) ppm.

reactant | 2-isopropoxy-5-nitro-phenol | 0.47 mmol, 100 mg | C(C)(C)OC1=C(C=C(C=C1)[N+](=O)[O-])O | C9H11NO4
catalyst | palladium on carbon | 0.47 mmol, 50 mg | [Pd] | Pd
product | 5-amino-2-isopropoxyphenol | 65 mg, 76% | NC=1C=CC(=C(C1)O)OC(C)C | C9H13NO2
